US05952351
Solid 1-tert-butoxycarbonyl-4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine (9.7 g, 28.9 mmol.) was dissolved in anhydrous DMF (72 mL) under an inert atmosphere and cesium carbonate (10.6 g, 32.5 mmol.) was added followed by excess 2,2,2-trifluoroethyl iodide (14.3 mL, 145 mmol.). This reaction mixture was gently warmed at 40-50° C. for an extended period (1-2 days), periodically adding additional 2,2,2-trifluoroethyl iodide (4 mL, 4 mmol in four portions) to drive the alkylation to completion. The cooled reaction mixture was diluted with EtOAc and washed with aq. NaHCO3 and water (3×). The organic layer was dried (Na2SO4) and filtered through a pad of charcoal and the solvent then evaporated. The solid residue was triturated with Et2O and collected to give 1-tert-butoxycarbonyl-4-(5-fluoro-3-(2,2,2-tri-fluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine as a nearly pure white solid. This material was crystallized from CH2C2 to remove a slightly less polar impurity affording the product, mp: 172-173° C.

reactant | 1-tert-butoxycarbonyl-4-(5-fluoro-2-oxo-1-benzimidazolinyl)piperidine | 28.9 mmol, 9.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O | C17H22FN3O3
reactant | cesium carbonate | 32.5 mmol, 10.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl iodide | 145 mmol, 14.3 mL | FC(CI)(F)F | C2H2F3I
reactant | 2,2,2-trifluoroethyl iodide | 4 mmol, 4 mL | FC(CI)(F)F | C2H2F3I
solvent | DMF | 72 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-tert-butoxycarbonyl-4-(5-fluoro-3-(2,2,2-tri-fluoroethyl)-2-oxo-1-benzimidazolinyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC(=C2)F)CC(F)(F)F)=O | C19H23F4N3O3
